Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest pain

 
Major Surgical or Invasive Procedure:
cardiac catheterization ___
 
History of Present Illness:
Mr. ___ is a ___ year old male with a history of untreated 
hypertension and loss to follow up from the medical system. He 
presented with severe substernal chest pain around 3:00pm 
radiating to bilateral arms as well as back pain.  He was quite 
concerned and presented to the ___ ED.

In the ED initial vitals were:  T 97.7 HR 66 BP 213/95 RR 16 
SpO2 100% on room air.  BPs in bilateral arms were concordant.
 EKG:  Normal sinus rhythm, large ST elevations in the antior 
precordial leads, I, aVL
 Labs/studies notable for:  Initial TnT <0.01.
 Patient was given:  Aspirin 325mg, ticagrelor 180mg, started on 
nitro gtt

The patient was transferred to the cath lab for primary PCI. The 
procedure showed:

- LM: is free of significant stenosis.
- Left Anterior Descending: a 100% stenosis in the Proximal LAD. 
The lesion has a TIMI flow of 0 and has mild calcification
noted. This lesion is further described as tubular. An 
intervention was performed on the Proximal LAD with a final 
stenosis of 0%. There were no lesion complications.
- Circumflex: 50% mid stenosis
- Ramus intermedius with 50% mid stenosis.
- RCA: diffuse ___ stenosis.

After stenting the patient had persistent ST elevation but no 
chest pain and was sent to the CCU for further monitoring.

On arrival to the CCU the patient was no in pain or short of 
breath.

 
Past Medical History:
- Hypertension
 
Social History:
___
Family History:
- Father with pacemaker
- No family history of early MI, cardiomyopathies, or 
sudden cardiac death.  
 
Physical Exam:
ADMISSION
VS: te,p=97.7, Hr=88, BP=175/110, SatO2=99% on RA 
general: well appearing. no in distress
heart: no JDV.  normal S1 and S2 no murmurs gallops or rubs
Chest: symmetrical chest expantion, normal vasicular breathing 
bilaterally. wheezing or rhonchi
Abdomen: central obesity. non tender. + BS
ext: warm and well perfused. 

DISCHARGE PHYSICAL EXAMINATION:  
 Vitals: 103-120/61-76, 64-77, ___, 97%ra
GENERAL: WDWN in NAD. Oriented. Mood, affect appropriate.      
CARDIAC: RR, normal S1, S2. No m/r/g. No thrills, lifts. No 
S3/S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.
ABDOMEN: Soft, NTND, protuberant
EXT: No edema
 
Pertinent Results:
======================
ADMISSION LABS
___ 04:13PM BLOOD WBC-5.8 RBC-5.73 Hgb-16.9 Hct-49.0 MCV-86 
MCH-29.5 MCHC-34.5 RDW-13.0 RDWSD-39.9 Plt ___
___ 04:13PM BLOOD Neuts-55.5 ___ Monos-8.7 Eos-1.9 
Baso-0.5 Im ___ AbsNeut-3.23 AbsLymp-1.92 AbsMono-0.51 
AbsEos-0.11 AbsBaso-0.03
___ 04:13PM BLOOD ___ PTT-28.8 ___
___ 04:13PM BLOOD Glucose-153* UreaN-18 Creat-1.0 Na-140 
K-4.0 Cl-101 HCO3-25 AnGap-18
___ 04:13PM BLOOD proBNP-8
___ 04:13PM BLOOD cTropnT-<0.01
___ 04:45PM BLOOD cTropnT-0.02*
___ 11:00PM BLOOD CK-MB-313* MB Indx-8.4* cTropnT-9.88*
___ 05:00AM BLOOD CK-MB-237* cTropnT-8.02*
___ 10:11AM BLOOD CK-MB-165* MB Indx-7.6* cTropnT-7.11*
___ 11:00PM BLOOD CK(CPK)-3737*
___ 10:11AM BLOOD CK(CPK)-2157*
___ 04:13PM BLOOD Calcium-9.9 Phos-2.2* Mg-2.0

======================
MICRO
None

======================
STUDIES

___ Cardiovascular C.CATH   ___ ___. 
Logged Only 
Intra-procedural Complications: None
Coronary Anatomy
Dominance: Right
* Left Main Coronary Artery
The LMCA is free of significant stenosis.
* Left Anterior Descending
There is a 100% stenosis in the Proximal LAD. The lesion has a 
TIMI flow of 0 and has mild calcification
noted. This lesion is further described as tubular. An 
intervention was performed on the Proximal LAD
with a final stenosis of 0%. There were no lesion complications.
* Circumflex
The Circumflex has 50% mid stenosis
There is a large ramus intermedius with 50% mid stenosis.
* Right Coronary Artery
The RCA has diffuse ___ stenosis.
Impressions:
1. Two vessel CAD with total occlusion of LAD.
2. Successful ___.
Recommendations
1. ASA 81 mg daily; Ticagrelor 90 mg BID x 12 months minimum.
2. High dose statin; ACE inhibitors, Beta blockers.

___ Cardiovascular ECHO   ___ ___. 
Finalized       
Conclusions   
 The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size. There is moderate to severe 
regional left ventricular systolic dysfunction with near 
akinesis of the distal half of the septum and anterior walls, 
and distal inferior wall. The apex is mildly aneurysmal and 
dyskinetic. The remaining segments contract well/hyperdynamic 
(quantitative LVEF 31%). No masses or thrombi are seen in the 
left ventricle. There is no left ventricular outflow obstruction 
at rest or with Valsalva. There is no ventricular septal defect. 
The right ventricular cavity size is normal with normal free 
wall contractility. The diameters of aorta at the sinus, 
ascending and arch levels are normal. The aortic valve leaflets 
(3) appear structurally normal with good leaflet excursion and 
no aortic stenosis. No aortic regurgitation is seen. The mitral 
valve appears structurally normal with mild [1+] mitral 
regurgitation. There is no mitral valve prolapse. The pulmonary 
artery systolic pressure could not be estimated. There is no 
pericardial effusion. 
 IMPRESSION: Mild symmetric left ventricular hypertrophy with 
severe regional systolic dysfunction (apical aneurysm without 
thrombus) in a pattern most c/w CAD (mid-LAD distribution). Mild 
mitral regurgitation with normal valve morphology.   

======================
DISCHARGE LABS
___ 07:55AM BLOOD WBC-8.7 RBC-4.96 Hgb-14.8 Hct-43.7 MCV-88 
MCH-29.8 MCHC-33.9 RDW-13.6 RDWSD-43.3 Plt ___
___ 07:55AM BLOOD Plt ___
___ 07:55AM BLOOD Glucose-109* UreaN-19 Creat-1.1 Na-135 
K-4.0 Cl-98 HCO3-22 AnGap-19
___ 07:55AM BLOOD Calcium-9.1 Phos-3.5 Mg-2.___ yo M with past medical history of hypertension not on any 
medications, who presented with sudden onset of chest pain, 
found to have STEMI. Cath showed two vessel CAD with total 
occlusion of LAD: there was a 100% stenosis in the proximal LAD, 
the circumflex had 50% mid stenosis, RCA had diffuse ___ 
stenosis. Patient underwent successful DES to the LAD. Echo 
showed mild symmetric left ventricular hypertrophy with severe 
regional systolic dysfunction LVEF 30% (apical aneurysm without 
thrombus) in a pattern most consistent with CAD (mid-LAD 
distribution).

SEE DETAILS BELOW BY PROBLEM

# Inferolateral STEMI
Presented with sudden onset chest pain, dyspnea, diaphoresis, 
found to have troponin elevated (peak 9.8) and ST elevations on 
EKG in inferolateral leads, s/p cath found to have 100% stenosis 
of LAD s/p DES.  On Echo, found to have apical akinesis, and 
depressed EF 33%.  Treated medically with Ticagrelor 90mg BID, 
Atorvastatin 80mg, ASA 81mg.  Switched home metoprolol to 
carvedilol 3.125mg BID for added blood pressure control.  
Started lisinopril 10mg to decrease afterload/demand.  ___ 
consulted, recommend outpatient cardiology rehab

#Systolic HF, (EF 33%)
Ischemic cardiomyopathy with apical akinesis/aneurysm, appears 
euvolemic on exam, 
started on lisinopril, carvedilol 3.125mg BID.

#Apical akinesis/aneurysm
No clot seen on Echo; starting warfarin for prevention.  INR 
1.4, discharged on Lovenox bridge.

#Hypertension
Prior past medical history, previously on meds (possibly 
lisinopril)until without insurance, then on no meds for ___ 
years.  Well controlled during admission on Lisinopril 10mg and 
Carvedilol 3.125mg BID

# Hx Hep C: Per patient, treated on interferon with successful 
remission.  Patient with mild chronic abdominal discomfort on 
presentation.  HCV positive, which could be consistent with 
exposure and resolved infection.  Viral load pending at time of 
discharge

***TRANSITIONAL ISSUES:***
- Patient should continue ASA 81 mg daily and Ticagrelor 90 mg 
BID x 12 months minimum
- Patient was started on warfarin for 3 months for prevention on 
thromboembolism in the setting of apical akinesis
- Patient was discharged on ___ bridge (100 mg BID SC), 
which should be stopped when INR is therapeutic
- Monitor INR and adjust dose of warfarin as needed
- Patient should repeat TTE in 4 to 6 weeks
- Monitor blood pressure and adjust blood pressure medications 
as needed
- Patient has HCV antibodies, HCV viral load was pending on 
discharge; please follow up on this issue and consider further 
management as needed

NEW MEDICATIONS:
Aspirin 81 mg once daily
Ticagrelor 90 mg twice daily
Warfarin 5 mg once daily
Lovenox SC 100 mg BID
Atorvastatin 80 mg once daily
Carvedilol 3.125 mg BID 
Lisinopril 10 mg daily
Nitro under the tongue as needed for chest pain

# CODE: Full code
# CONTACT: HCP: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*3 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*3 
3.  Carvedilol 3.125 mg PO BID 
RX *carvedilol 3.125 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*3 
4.  Enoxaparin Sodium 100 mg SC BID 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 100 mg/mL 100 mg SC twice a day Disp #*10 Syringe 
Refills:*0 
5.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
6.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin 0.3 mg 1 tablet(s) sublingually as needed for 
chest pain Disp #*30 Tablet Refills:*0 
7.  TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*3 
8.  ___  MD to order daily dose PO DAILY16 
RX *warfarin [Coumadin] 1 mg 5 tablet(s) by mouth once a day 
Disp #*100 Tablet Refills:*3 
9.  Multivitamins 1 TAB PO DAILY  
10.Outpatient Lab Work
Diagnosis: STEMI (ICD10 I21)
Test: INR
Date: ___
Contact: Fax to ___ at F: ___, P: 
___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
STEMI

SECONDARY DIAGNOSIS:
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You came to the hospital because you experienced chest pain. You 
were found to have a heart attack.

What happened to you during your hospital stay?
- You underwent an urgent heart catheterization and were found 
to have a complete blockage in one of the heart vessels.
- A stent was placed in the obstructed vessel to open it.

What should you do when you leave the hospital?
- It is very important to take all of your new heart 
medications. In particular, you are now taking aspirin and 
ticagrelor. These two medications keep the stents in the vessels 
of the heart open and help reduce your risk of having a future 
heart attack. If you stop these medications or miss ___ dose, you 
risk causing a blood clot forming in your heart stents, and you 
may die from a massive heart attack. Please do not stop taking 
either medication without taking to your heart doctor, even if 
another doctor tells you to stop the medications.

- You will be discharged on another blood thinner medication 
called warfarin (also known as Coumadin), this medication will 
need close blood testing monitoring so make sure to follow up 
with the ___ clinic as directed.

- You were discharged on lovenox shots to be taken until 
warfarin has its full effect in your body. You should have your 
blood checked on ___ to see whether warfarin 
reached its adequate effect. Do not stop lovenox until advised 
by the ___ clinic.

- Please make sure to keep all your doctors ___.

- You will need a follow up heart echo within 4 to 6 weeks after 
your leave the hospital.

NEW MEDICATIONS:
Aspirin 81 mg once daily
Ticagrelor 90 mg twice daily
Warfarin 5 mg once daily (dose might be changed by the 
___ clinic)
Lovenox (enoxaparin) shots twice a day
Atorvastatin 80 mg once daily
Carvedilol 3.125 mg twice daily
Lisinopril 10 mg daily
Nitro under the tongue as needed for chest pain

It was a pleasure taking care of you.
- Your ___ team
 
Followup Instructions:
___